US06815451B2
1-(3,4-Dichloro-benzyl)-6-methoxy-7-trifluoromethanesulfonyloxy-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-butyl Ester
To a solution of 1-(3,4-dichloro-benzyl)-7-hydroxy-6-methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (12 g, 27 mmol) in CH2Cl2 (100 mL) is added Et3N (3.8 mL, 27 mmol). The reaction mixture is cooled to 0° C. and trifluoromethanesulfonic anhydride (4.45 mL, 27 mmol) is added. The resulting yellow solution is stirred at rt 30 min, and is poured onto aqueous saturated NaHCO3 (100 mL). The aqueous phase is extracted with CH2Cl2 (2×100 mL), and the combined organic phases are dried (MgSO4), filtered and evaporated to provide the title compound as yellow oil. Purification is achieved by crystallization from MeOH. The evaporated mother liquor furnishes additional material upon silica gel chromatography (heptane:Et2O, 9:1).

reactant | 1-(3,4-dichloro-benzyl)-7-hydroxy-6-methoxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 27 mmol, 12 g | C(C)(C)(C)OC(=O)N1C(C2=CC(=C(C=C2CC1)OC)O)CC1=CC(=C(C=C1)Cl)Cl | C22H25Cl2NO4
reactant | Et3N | 27 mmol, 3.8 mL | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 27 mmol, 4.45 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-Dichloro-benzyl)-6-methoxy-7-trifluoromethanesulfonyloxy-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-butyl Ester | C(C)(C)(C)OC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OS(=O)(=O)C(F)(F)F)CC1=CC(=C(C=C1)Cl)Cl | C23H24Cl2F3NO6S
